** Name: SymmetricalOpAmp66

.MACRO SymmetricalOpAmp66 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=10e-6 W=23e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=67e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=6e-6 W=7e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=52e-6
mDiodeTransistorPmos5 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=5e-6 W=5e-6
mDiodeTransistorPmos6 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos7 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mNormalTransistorNmos8 inOutputTransconductanceComplementarySecondStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=52e-6
mNormalTransistorNmos9 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=63e-6
mNormalTransistorNmos10 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=6e-6 W=57e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=63e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=157e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=10e-6 W=109e-6
mNormalTransistorNmos14 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=67e-6
mNormalTransistorPmos15 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=5e-6 W=46e-6
mNormalTransistorPmos16 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=5e-6 W=46e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=40e-6
mNormalTransistorPmos18 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=40e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp66

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 0.653001 mW
** Area: 6721 (mu_m)^2
** Transit frequency: 8.46701 MHz
** Transit frequency with error factor: 8.4669 MHz
** Slew rate: 8.09114 V/mu_s
** Phase margin: 65.3172°
** CMRR: 145 dB
** negPSRR: 54 dB
** posPSRR: 47 dB
** VoutMax: 4.27001 V
** VoutMin: 0.840001 V
** VcmMax: 4.60001 V
** VcmMin: 1.29001 V


** Expected Currents: 
** NormalTransistorNmos: 10.0041 muA
** DiodeTransistorPmos: -14.9999 muA
** DiodeTransistorPmos: -14.9999 muA
** NormalTransistorNmos: 29.9971 muA
** NormalTransistorNmos: 29.9961 muA
** NormalTransistorNmos: 14.9991 muA
** NormalTransistorNmos: 14.9991 muA
** NormalTransistorNmos: 40.5551 muA
** NormalTransistorNmos: 40.5541 muA
** NormalTransistorPmos: -40.5559 muA
** NormalTransistorPmos: -40.5549 muA
** DiodeTransistorNmos: 40.1041 muA
** DiodeTransistorNmos: 40.1031 muA
** NormalTransistorPmos: -40.1049 muA
** NormalTransistorPmos: -40.1059 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -10.0049 muA


** Expected Voltages: 
** ibias: 1.18601  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceStageBiasComplementarySecondStage: 0.612001  V
** inSourceTransconductanceComplementarySecondStage: 4.19901  V
** innerComplementarySecondStage: 1.65201  V
** out: 2.5  V
** outFirstStage: 4.19901  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.600001  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 1.02201  V
** innerTransconductance: 4.74501  V
** inner: 4.74201  V


.END