** Name: SymmetricalOpAmp67

.MACRO SymmetricalOpAmp67 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=8e-6 W=28e-6
mDiodeTransistorNmos2 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=9e-6 W=38e-6
mDiodeTransistorPmos3 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mDiodeTransistorPmos4 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=24e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=7e-6 W=121e-6
mDiodeTransistorPmos6 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=24e-6
mNormalTransistorNmos7 inOutputTransconductanceComplementarySecondStage ibias sourceNmos sourceNmos nmos4 L=8e-6 W=317e-6
mNormalTransistorNmos8 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=46e-6
mNormalTransistorNmos9 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=9e-6 W=58e-6
mNormalTransistorNmos10 inputVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=8e-6 W=84e-6
mNormalTransistorNmos11 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=9e-6 W=58e-6
mNormalTransistorNmos12 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=46e-6
mNormalTransistorNmos13 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=8e-6 W=166e-6
mNormalTransistorNmos14 FirstStageYsourceTransconductance inOutputStageBiasComplementarySecondStage FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=9e-6 W=49e-6
mNormalTransistorNmos15 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=9e-6 W=51e-6
mNormalTransistorNmos16 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=9e-6 W=51e-6
mNormalTransistorPmos17 inOutputStageBiasComplementarySecondStage inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=7e-6 W=475e-6
mNormalTransistorPmos18 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=104e-6
mNormalTransistorPmos19 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=104e-6
mNormalTransistorPmos20 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=34e-6
mNormalTransistorPmos21 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=34e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp67

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 2.05801 mW
** Area: 12520 (mu_m)^2
** Transit frequency: 8.74901 MHz
** Transit frequency with error factor: 8.7487 MHz
** Slew rate: 8.40286 V/mu_s
** Phase margin: 69.328°
** CMRR: 145 dB
** negPSRR: 58 dB
** posPSRR: 63 dB
** VoutMax: 4.40001 V
** VoutMin: 0.570001 V
** VcmMax: 4.39001 V
** VcmMin: 1.5 V


** Expected Currents: 
** NormalTransistorNmos: 29.4721 muA
** NormalTransistorNmos: 111.687 muA
** NormalTransistorPmos: -117.707 muA
** DiodeTransistorPmos: -29.2059 muA
** DiodeTransistorPmos: -29.2059 muA
** NormalTransistorNmos: 58.4091 muA
** NormalTransistorNmos: 58.4081 muA
** NormalTransistorNmos: 29.2051 muA
** NormalTransistorNmos: 29.2051 muA
** NormalTransistorNmos: 42.1631 muA
** NormalTransistorNmos: 42.1621 muA
** NormalTransistorPmos: -42.1639 muA
** NormalTransistorPmos: -42.1649 muA
** NormalTransistorNmos: 42.1631 muA
** NormalTransistorNmos: 42.1621 muA
** NormalTransistorPmos: -42.1639 muA
** NormalTransistorPmos: -42.1649 muA
** DiodeTransistorNmos: 117.708 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -29.4729 muA
** DiodeTransistorPmos: -111.686 muA


** Expected Voltages: 
** ibias: 0.588001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 0.977001  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 3.98201  V
** innerComplementarySecondStage: 0.700001  V
** inputVoltageBiasXXpXX0: 4.12601  V
** out: 2.5  V
** outFirstStage: 3.98201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.215001  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.295001  V
** innerTransconductance: 4.40001  V
** inner: 0.295001  V
** inner: 4.40001  V


.END