** Name: SymmetricalOpAmp69

.MACRO SymmetricalOpAmp69 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=7e-6
mDiodeTransistorNmos2 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=9e-6 W=87e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorPmos4 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos5 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=100e-6
mDiodeTransistorPmos6 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=100e-6
mNormalTransistorNmos7 inOutputTransconductanceComplementarySecondStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=150e-6
mNormalTransistorNmos8 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=306e-6
mNormalTransistorNmos9 innerComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=9e-6 W=87e-6
mNormalTransistorNmos10 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage nmos4 L=1e-6 W=56e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=306e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=293e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=72e-6
mNormalTransistorPmos14 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=150e-6
mNormalTransistorPmos15 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=150e-6
mNormalTransistorPmos16 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=146e-6
mNormalTransistorPmos17 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=146e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp69

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 2.96501 mW
** Area: 7707 (mu_m)^2
** Transit frequency: 29.9581 MHz
** Transit frequency with error factor: 29.9578 MHz
** Slew rate: 28.729 V/mu_s
** Phase margin: 67.0361°
** CMRR: 150 dB
** negPSRR: 101 dB
** posPSRR: 53 dB
** VoutMax: 4.54001 V
** VoutMin: 1 V
** VcmMax: 4.61001 V
** VcmMin: 1.42001 V


** Expected Currents: 
** NormalTransistorNmos: 100.08 muA
** DiodeTransistorPmos: -97.1369 muA
** DiodeTransistorPmos: -97.1369 muA
** NormalTransistorNmos: 194.272 muA
** NormalTransistorNmos: 194.271 muA
** NormalTransistorNmos: 97.1361 muA
** NormalTransistorNmos: 97.1361 muA
** NormalTransistorNmos: 144.303 muA
** DiodeTransistorNmos: 144.302 muA
** NormalTransistorPmos: -144.302 muA
** NormalTransistorPmos: -144.301 muA
** NormalTransistorNmos: 144.303 muA
** NormalTransistorPmos: -144.302 muA
** NormalTransistorPmos: -144.301 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -100.079 muA


** Expected Voltages: 
** ibias: 1.18701  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 4.20201  V
** inStageBiasComplementarySecondStage: 0.823001  V
** innerComplementarySecondStage: 1.40201  V
** out: 2.5  V
** outFirstStage: 4.20201  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.472001  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 4.48101  V
** inner: 4.48101  V


.END