** Name: SymmetricalOpAmp70

.MACRO SymmetricalOpAmp70 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=7e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=33e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=3e-6 W=33e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=21e-6
mDiodeTransistorPmos5 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=52e-6
mDiodeTransistorPmos6 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=20e-6
mDiodeTransistorPmos7 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=20e-6
mNormalTransistorNmos8 inOutputTransconductanceComplementarySecondStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=545e-6
mNormalTransistorNmos9 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=18e-6
mNormalTransistorNmos10 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=3e-6 W=33e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=18e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=48e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=4e-6 W=40e-6
mNormalTransistorNmos14 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=33e-6
mNormalTransistorPmos15 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=2e-6 W=155e-6
mNormalTransistorPmos16 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=2e-6 W=155e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=61e-6
mNormalTransistorPmos18 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=61e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp70

** Expected Performance Values: 
** Gain: 101 dB
** Power consumption: 1.81201 mW
** Area: 4034 (mu_m)^2
** Transit frequency: 7.36601 MHz
** Transit frequency with error factor: 7.36635 MHz
** Slew rate: 7.02667 V/mu_s
** Phase margin: 73.3387°
** CMRR: 154 dB
** negPSRR: 74 dB
** posPSRR: 54 dB
** VoutMax: 4.66001 V
** VoutMin: 0.790001 V
** VcmMax: 4.66001 V
** VcmMin: 1.27001 V


** Expected Currents: 
** NormalTransistorNmos: 259.507 muA
** DiodeTransistorPmos: -11.4289 muA
** DiodeTransistorPmos: -11.4289 muA
** NormalTransistorNmos: 22.8551 muA
** NormalTransistorNmos: 22.8561 muA
** NormalTransistorNmos: 11.4281 muA
** NormalTransistorNmos: 11.4281 muA
** NormalTransistorNmos: 35.2771 muA
** DiodeTransistorNmos: 35.2761 muA
** NormalTransistorPmos: -35.2779 muA
** NormalTransistorPmos: -35.2789 muA
** DiodeTransistorNmos: 34.6971 muA
** NormalTransistorNmos: 34.6981 muA
** NormalTransistorPmos: -34.6979 muA
** NormalTransistorPmos: -34.6989 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 10.0001 muA
** DiodeTransistorPmos: -259.506 muA


** Expected Voltages: 
** ibias: 1.21901  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceStageBiasComplementarySecondStage: 0.599001  V
** inSourceTransconductanceComplementarySecondStage: 4.25701  V
** innerComplementarySecondStage: 1.19801  V
** out: 2.5  V
** outFirstStage: 4.25701  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.649001  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 4.40901  V
** inner: 0.600001  V
** inner: 4.40801  V


.END