** Name: SymmetricalOpAmp83

.MACRO SymmetricalOpAmp83 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=6e-6 W=31e-6
mDiodeTransistorNmos2 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=16e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=600e-6
mDiodeTransistorPmos4 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos5 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=29e-6
mDiodeTransistorPmos6 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=29e-6
mNormalTransistorNmos7 inOutputTransconductanceComplementarySecondStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=307e-6
mNormalTransistorNmos8 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=104e-6
mNormalTransistorNmos9 innerComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=16e-6
mNormalTransistorNmos10 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage nmos4 L=1e-6 W=56e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=104e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=6e-6 W=600e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=31e-6
mNormalTransistorPmos14 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=383e-6
mNormalTransistorPmos15 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=383e-6
mNormalTransistorPmos16 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=46e-6
mNormalTransistorPmos17 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=46e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp83

** Expected Performance Values: 
** Gain: 97 dB
** Power consumption: 3.05901 mW
** Area: 11676 (mu_m)^2
** Transit frequency: 18.7871 MHz
** Transit frequency with error factor: 18.7875 MHz
** Slew rate: 30.6989 V/mu_s
** Phase margin: 77.9223°
** CMRR: 142 dB
** negPSRR: 54 dB
** posPSRR: 58 dB
** VoutMax: 4.42001 V
** VoutMin: 0.920001 V
** VcmMax: 4.41001 V
** VcmMin: 1.37001 V


** Expected Currents: 
** NormalTransistorNmos: 99.6351 muA
** DiodeTransistorPmos: -96.1739 muA
** DiodeTransistorPmos: -96.1739 muA
** NormalTransistorNmos: 192.346 muA
** DiodeTransistorNmos: 192.345 muA
** NormalTransistorNmos: 96.1731 muA
** NormalTransistorNmos: 96.1731 muA
** NormalTransistorNmos: 154.959 muA
** DiodeTransistorNmos: 154.958 muA
** NormalTransistorPmos: -154.958 muA
** NormalTransistorPmos: -154.957 muA
** NormalTransistorNmos: 154.959 muA
** NormalTransistorPmos: -154.958 muA
** NormalTransistorPmos: -154.957 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -99.6359 muA


** Expected Voltages: 
** ibias: 1.11101  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 4.00401  V
** inStageBiasComplementarySecondStage: 0.742001  V
** innerComplementarySecondStage: 1.32701  V
** out: 2.5  V
** outFirstStage: 4.00401  V
** outSourceVoltageBiasXXnXX1: 0.556001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.83801  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V
** inner: 0.555001  V


.END